US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-cyano-1H-indol-5-yl)cyclopropanecarboxamide (375 mg, 0.934 mmol) was dissolved in 35 mL of ethyl acetate. The solution was recirculated through a continuous flow hydrogenation reactor containing 10% palladium on carbon at 100° C. under 100 bar of hydrogen for 8 h. The crude product was then evaporated to dryness and purified on 12 g of silica gel utilizing a gradient of 0-100% ethyl acetate (containing 0.5% triethylamine) in hexanes to yield N-(7-(aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]-dioxol-5-yl)-cyclopropanecarboxamide (121 mg, 32%). ESI-MS m/z calc. 405.2, found 406.5 (M+1)+. Retention time of 1.48 minutes.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-7-cyano-1H-indol-5-yl)cyclopropanecarboxamide | 0.934 mmol, 375 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=C(C2)C#N)C(C)(C)C | C24H23N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | N-(7-(aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]-dioxol-5-yl)-cyclopropanecarboxamide | 121 mg, 32% | NCC=1C=C(C=C2C=C(NC12)C(C)(C)C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C24H27N3O3
